US08809551B1
2,3-Dimethyl-3-(4-sulfonatobutyl)-1-phenyl-3H-indolium (5)
N,N-Diphenylhydrazine hydrochloride (0.01 mol, 2.2 g), 5-methyl-6-oxoheptanesulfonic acid (0.017 mol, 3.0 g) in glacial acetic acid (20 ml) were stirred at room temperature (˜20° C.) for an hour then at 100° C. for 3 hours (TLC check). The reaction mixture was cooled down and the solvent removed under vacuum. The residue was washed with diethyl ether and purified by flash column on silicagel. Yield: 2 g (56%). Structure confirmed by NMR spectrum.

reactant | N,N-Diphenylhydrazine hydrochloride | 0.01 mol, 2.2 g | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
reactant | 5-methyl-6-oxoheptanesulfonic acid | 0.017 mol, 3.0 g | CC(CCCCS(=O)(=O)O)C(C)=O | C8H16O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethyl-3-(4-sulfonatobutyl)-1-phenyl-3H-indolium | CC1=[N+](C2=CC=CC=C2C1(CCCCS(=O)(=O)[O-])C)C1=CC=CC=C1 | C20H23NO3S
